US07592363B2
2-(2,4-DIMETHYLBENZYL)-3-(4-FLUOROPHENYL)-2H-INDAZOLE-7-CARBOXYLIC ACID
A solution of methyl 2-(2,4-dimethylbenzyl)-3-(4-fluorophenyl)-2H-indazole-7-carboxylate (0.195 g, 0.5 mmol) in 5 mL methanol was treated with 1 mL of 1N NaOH and stirred at 50° C. for 1 hour. The solution was neutralized with dilute HCl and partitioned with ethyl acetate and H2O. The organic phase was dried (Na2SO4) and concentrated in vacuo to give 0.95 mg of the title compound as a yellow solid.

reactant | methyl 2-(2,4-dimethylbenzyl)-3-(4-fluorophenyl)-2H-indazole-7-carboxylate | 0.5 mmol, 0.195 g | CC1=C(CN2N=C3C(=CC=CC3=C2C2=CC=C(C=C2)F)C(=O)OC)C=CC(=C1)C | C24H21FN2O2
reactant | NaOH | 1N, 1 mL | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | methanol | 5 mL | CO | CH4O
product | 2-(2,4-DIMETHYLBENZYL)-3-(4-FLUOROPHENYL)-2H-INDAZOLE-7-CARBOXYLIC ACID | 0.95 mg | CC1=C(CN2N=C3C(=CC=CC3=C2C2=CC=C(C=C2)F)C(=O)O)C=CC(=C1)C | C23H19FN2O2
